US07816522B2
After adding 144 mg of 2-hydrazinopyrimidine and 900 μl of triethylamine to a solution of 624 mg of [2-(4-cyanophenylimino)-2-(4-fluoro-7-methoxy-2,3-dihydrobenzofuran-5-yl)-1-methylsulfanylethylidene]carbamic acid methyl ester in 12 ml of DMF, the mixture was stirred overnight at 85° C. under a nitrogen atmosphere. The reaction mixture was concentrated, and the residue was dissolved in 6.6 ml of a methanol:acetic acid=10:1 mixed solvent. After adding 1 g of sodium cyanotrihydroborate to the solution, the mixture was stirred at room temperature for 1 hour. Ethyl acetate was added to the reaction mixture. The organic layer was washed with dilute hydrochloric acid and saturated brine and then dried over anhydrous magnesium sulfate. The desiccating agent was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by NAM silica gel column chromatography (methanol-ethyl acetate) to give 4-{[(4-fluoro-7-methoxy-2,3-dihydrobenzofuran-5-yl)-(5-oxo-1-pyrimidin-2-yl-4,5-dihydro-1H-[1,2,4]triazol-3-yl)methyl]amino}benzonitrile (414 mg) as a light yellow solid.

reactant | 2-hydrazinopyrimidine | 144 mg | N(N)C1=NC=CC=N1 | C4H6N4
reactant | triethylamine | 900 μl | C(C)N(CC)CC | C6H15N
reactant | [2-(4-cyanophenylimino)-2-(4-fluoro-7-methoxy-2,3-dihydrobenzofuran-5-yl)-1-methylsulfanylethylidene]carbamic acid methyl ester | 624 mg | COC(N=C(C(C=1C=C(C2=C(CCO2)C1F)OC)=NC1=CC=C(C=C1)C#N)SC)=O | C21H18FN3O4S
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
product | 4-{[(4-fluoro-7-methoxy-2,3-dihydrobenzofuran-5-yl)-(5-oxo-1-pyrimidin-2-yl-4,5-dihydro-1H-[1,2,4]triazol-3-yl)methyl]amino}benzonitrile | 414 mg | FC1=C(C=C(C2=C1CCO2)OC)C(C2=NN(C(N2)=O)C2=NC=CC=N2)NC2=CC=C(C#N)C=C2 | C23H18FN7O3
